US07018988B2
(3EZ,5S)-5-(1-methyl-1H-benzimidazol-2-yl)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 11, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and N1-methyl-1,2-benzenediamine, the title compound was obtained in 83% purity by HPLC. MS(ESI+): m/z=439.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | N1-methyl-1,2-benzenediamine | CNC=1C(=CC=CC1)N | C7H10N2
product | (3EZ,5S)-5-(1-methyl-1H-benzimidazol-2-yl)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C1=NC2=C(N1C)C=CC=C2)C(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)C | C27H26N4O2
